US08877742B2
1-(3-bromophenyl)azetidine
The title compound was prepared from 1,3-dibromobenzene and azetidine using a similar procedure to that described for D43. LCMS (A): m/z (M+H)+ 212/214, C9H10BrN requires 211/213 (acidic).

reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | azetidine | N1CCC1 | C3H7N
product | 1-(3-bromophenyl)azetidine | BrC=1C=C(C=CC1)N1CCC1 | C9H10BrN
